US04853469
Preparation of ethyl 2-(3-acetoxy-2-oxopropylthio)-6,7,8-trifluoro-4-hydroxyquinoline-3-carboxylate [compound (XV) in which R4 is ethyl]
To methylene chloride (500 ml) were added ethyl 4-hydroxy-2-mercapto-6,7,8-trifluoroquinoline-3-carboxylate (33 g), triethylamine (22 g) and 1-acetoxy-3-chloroacetone (16.4 g) and the mixture was stirred at room temperature for 15 minutes. Chloroform (700 ml) was added to the reaction solution and washed with 0.1N hydrochloric acid, water and a NaCl solution in this order, dried over anhydrous magnesium sulfate and evaporated to dryness under reduced pressure. The residue was recrystallized from ethyl acetate to give the title compound (37.2 g) as colorless crystals, m.p. 175°-180° C.

reactant | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
reactant | ethyl 4-hydroxy-2-mercapto-6,7,8-trifluoroquinoline-3-carboxylate | 33 g | OC1=C(C(=NC2=C(C(=C(C=C12)F)F)F)S)C(=O)OCC | C12H8F3NO3S
reactant | triethylamine | 22 g | C(C)N(CC)CC | C6H15N
reactant | 1-acetoxy-3-chloroacetone | 16.4 g | C(C)(=O)OCC(=O)CCl | C5H7ClO3
solvent | Chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-(3-acetoxy-2-oxopropylthio)-6,7,8-trifluoro-4-hydroxyquinoline-3-carboxylate | 37.2 g | C(C)(=O)OCC(CSC1=NC2=C(C(=C(C=C2C(=C1C(=O)OCC)O)F)F)F)=O | C17H14F3NO6S
